US05952362
A mixture of 3,5-dinitro-p-toluic acid (20 g), diphenylphosphoryl azide (29.2 g) and triethyl amine (10.7 g, from Mallinckrodt) in tert-butyl alcohol (200 mL) under nitrogen was heated at reflux for 1 hr. The solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate (300 mL) and 1N HCl (300 mL). The ethyl acetate solution was washed with half-saturated sodium chloride solution, 1N sodium hydroxide solution (300 mL), and dried over magnesium sulfate. The solvent was evaporated and the residue was chromatographed on silica gel eluting with ethyl acetate:hexane (1:9) to afford N-t-butyloxycarbonyl-3,5-dinitro-4-methylaniline (7.8 g).

reactant | 3,5-dinitro-p-toluic acid | 20 g | [N+](=O)([O-])C=1C=C(C=C(C1C(=O)O)[N+](=O)[O-])C | C8H6N2O6
reactant | diphenylphosphoryl azide | 29.2 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 10.7 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 200 mL | C(C)(C)(C)O | C4H10O
product | N-t-butyloxycarbonyl-3,5-dinitro-4-methylaniline | 7.8 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=C1)[N+](=O)[O-])C)[N+](=O)[O-] | C12H15N3O6
